US06093731
A suspension of tert-butyl 1-[(4-methyl-1-piperazinyl)carbonyl]cyclopentylcarbamate (2.2 g, 7.06 mmol) in EtOAc (120 ml) at 4° C. was saturated with HCl gas, and the reaction then stirred for 4 h. The mixture was azeotroped with EtOAc, then dry Et2O, and dried under vacuum to afford (1-aminocyclopentyl)(4-methyl-1-piperazinyl)methanone dihydrochloride (2.1 g) as a white solid.

reactant | tert-butyl 1-[(4-methyl-1-piperazinyl)carbonyl]cyclopentylcarbamate | 7.06 mmol, 2.2 g | CN1CCN(CC1)C(=O)C1(CCCC1)NC(OC(C)(C)C)=O | C16H29N3O3
reactant | HCl | Cl | ClH
solvent | EtOAc | 120 ml | CCOC(=O)C | C4H8O2
product | (1-aminocyclopentyl)(4-methyl-1-piperazinyl)methanone dihydrochloride | 2.1 g | Cl.Cl.NC1(CCCC1)C(=O)N1CCN(CC1)C | InChI=1S/C11H21N3O.2ClH/c1-13-6-8-14(9-7-13)10(15)11(12)4-2-3-5-11;;/h2-9,12H2,1H3;2*1H
